US06090839
Step E: Preparation of the Methyl 2-(2-hydroxyethyl)indole-5-acetate
To a solution of methyl 2-(2-(t-butyldimethylsilyl-oxyethyl)-indole-5-acetate (400 mg; 1.15 mmol) in ca. 4 ml of THF was added a 1 M tetrabutylammonium fluoride in THF (1.2 mL; 1.05 eq) at 0° C. After 15 minutes, the reaction was allowed to warm to room temperature and stirred for an additional 3 hours. It was con-centrated, diluted with water and extracted with ethyl acetate. The organic layer was washed with water, dried (Na2SO4), concentrated and chromatographed (silica gel, hexane:ethyl acetate 4:1) to yield 241 mg of the title compound as a colorless oil.

reactant | 2-(t-butyldimethylsilyl-oxyethyl)-indole-5-acetate | 1.15 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)OCCC=1NC2=CC=C(C=C2C1)CC(=O)[O-]
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | ca. 4 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 1.2 mL, 1.05 eq | C1CCOC1 | C4H8O
product | Methyl 2-(2-hydroxyethyl)indole-5-acetate | 241 mg | OCCC=1NC2=CC=C(C=C2C1)CC(=O)OC | C13H15NO3
